US07101886B2
N-(2-FLUORO-4-FORMYL-PHENYL)-ACETAMIDE
Stannous chloride (98%, 17.3 g, 91.5 mmol) was placed in a dry 3-neck 500 mL round bottom flask under argon. Anhydrous diethyl ether (100 mL) was added via cannula. The suspension was stirred as dry HCl gas was bubbled in until the solid dissolved. Anhydrous methylene chloride (100 mL) was added via cannula to homogenize the two layers and the solution was stirred for an additional 0.5 h while a continuous stream of dry HCl gas was bubbled through the solution. N-(4-Cyano-2-fluoro-phenyl)-acetamide (10.5 g, 58.7 mmol) was added and the suspension stirred at rt for an additional 3 h under a continuous stream of dry HCl gas. During this time a sticky, yellow solid formed which eventually crystallized. The reaction mixture was left standing overnight after the introduction of HCL was stopped. The residue was partioned between methylene chloride (100 mL) and water (100 mL) and the phases were separated. The aqueous phase was extracted with methylene chloride (100 mL) and the combined organic extracts were washed with brine (100 mL) and dried over anhydrous potassium carbonate (essential for purity of the product). Concentration of the solvent provided 10.5 g (57.7 mmol) of a crystalline residue. Yield: 98%; mp 133° C.; 1H NMR (400 MHz, CDCl3) δ 10.1 (s, 1H, NH), 9.9 (s, 1H, CHO), 8.39 (t, J=8.0 Hz, 1H), 7.76–7.72 (m, 2H), 2.18 (s, 3H, Me).

reactant | HCl | Cl | ClH
reactant | N-(4-Cyano-2-fluoro-phenyl)-acetamide | 58.7 mmol, 10.5 g | C(#N)C1=CC(=C(C=C1)NC(C)=O)F | C9H7FN2O
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | N-(2-FLUORO-4-FORMYL-PHENYL)-ACETAMIDE | 57.7 mmol, 10.5 g, Yield: 98% | FC1=C(C=CC(=C1)C=O)NC(C)=O | C9H8FNO2
